US06436972B1
A 100 ml RBF was charged with 6-hydroxynicotinic acid (4 g) and 20 ml of thionyl chloride. The mixture was refluxed for 1 hr. Excess thionyl chloride was then evaporated in vacuo to obtain the 6-hydroxynicotinyl chloride. A 200 ml RBF was charged with 1.13 g of 6-hydroxynicotinyl chloride in 100 ml of methylene chloride, cooled and stirred at 0° C. Piperidine (8.6 mM=0.85 ml) in 10 ml methylene chloride was added dropwise and the resulting mixture was stirred at room temperature for 15 hours. The mixture was then concentrated under vacuum. To the residue was added 25 ml of methylene chloride and stirred at 30° C. for 5 minutes. Solid was filtered and residue was chromatographed using CH2C12:MeOH:NH3=200:10:1. The product was recrystallized from CH2Cl2 and petroleum ether to furnish 0.92 g (62%) of product. 1H NMR (CDCl3, 400 MHz) 6: 7.61 (s, 1H), 7.55 (d, J=8.4 Hz, 1H), 6.55 (d, J=8.6 Hz, 1H), 3.50 (bs, 4H), 1.65 (m, 2H), 1.57 (m, 4H). 13C NMR (CDCl3, 400 MHz) δ:166.5, 164.8, 141.3, 135.7, 119.7, 116.1, 26.0, 24.4. IR (CHCl3) cm−1: 3346, 3050, 3004, 1655, 1615, 1473, 1115, 841, 780, 627. HREIMS m+/z (%) : C11H14N2O2 (calc)=206.1055; C11Hl14N2O2 (obs)=206.1061 (70).

reactant | 6-hydroxynicotinic acid | 4 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-hydroxynicotinyl chloride | OC1=NC=C(CCl)C=C1 | C6H6ClNO
